US05767131
N-[3-(1,2,3,4-tetrahydro-6,7-dimethoxyisoquinolin-2-yl)propyl]acetoacetamide.
Diketene (1.41 mL, 18.3 mmol, 1.50 equiv) was added at 0° C. to a stirred solution of 2-(3-aminopropyl)-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline (3.05 g, 12.2 mmol, 1.00 equiv) in anhydrous THF (30 mL) under argon, and stirring was continued at room temperature for 1.5 hours. The mixture was concentrated and the residual oil washed with hexane (2×100 mL) to give 4.07 g (100%) of brown oil, which was characterized spectroscopically and used for the next reaction without purification.

reactant | Diketene | 18.3 mmol, 1.41 mL, 1.50 equiv | C=C1CC(=O)O1 | C4H4O2
reactant | 2-(3-aminopropyl)-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline | 12.2 mmol, 3.05 g, 1.00 equiv | NCCCN1CC2=CC(=C(C=C2CC1)OC)OC | C14H22N2O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-[3-(1,2,3,4-tetrahydro-6,7-dimethoxyisoquinolin-2-yl)propyl]acetoacetamide | 4.07 g, 100% | COC=1C=C2CCN(CC2=CC1OC)CCCNC(CC(=O)C)=O | C18H26N2O4
